US05962002
8-triphenylphosphonium octanoic acid bromide salt (2.43 g) was prepared by reacting triphenyl phosphine with 8-bromooctanoic acid in xylene solvent under reflux conditions, and removing the solvent. The residue was dissolved in THF (20 ml)/DMSO (2 ml) and butyllithium (2.5M; 4 ml) in hexane (4 ml) was added dropwise at 0° C. After warming to room temperature over 30 minutes 3,3-dimethylbutanal (0.5 g) in THF (5 ml) was added dropwise and the mixture stirred at room temperature for 3 hours. Water and dilute hydrochloric acid were added and the mixture extracted with diethyl ether(x3). Pure product 11,11-dimethyldodecan-8-enoic acid (0.4 g) was provided after silica gel column chromatography.

reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 8-bromooctanoic acid | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 11,11-dimethyldodecan-8-enoic acid | 0.4 g | CC(CC=CCCCCCCC(=O)O)(C)C | C14H26O2
